US04804661
11.23 g of 1-[2-(4-chlorophenyl)-ethyl]piperazine are dissolved in 100 ml of methylene chloride and there are added thereto 9 ml of triethylamine and then, dropwise and with external cooling, 11.08 g of 3-methoxybenzoyl chloride in 100 ml of methylene chloride. The reaction mixture is stirred overnight at room temperature and is then extracted by shaking once with 50 ml of 2N sodium hydroxide solution and twice with 100 ml of water each time. After being dried over sodium sulphate, the mixture is concentrated to dryness by evaporation in vacuo. The oily 1-[2-(4-chlorophenyl)-ethyl]-4-(3-methoxybenzoyl)piperazine is dissolved in isopropanol, and alcoholic hydrochloric acid is added thereto. After the addition of ether, the crystals are filtered. 1-[2-(4-chlorophenyl)-ethyl]-4-(3-methoxybenzoyl)-piperazine hydrochloride having a melting point of 230°-232° is obtained.

reactant | 1-[2-(4-chlorophenyl)-ethyl]piperazine | 11.23 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methoxybenzoyl chloride | 11.08 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(3-methoxybenzoyl)-piperazine hydrochloride | Cl.ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=CC(=CC=C1)OC)=O | InChI=1S/C20H23ClN2O2.ClH/c1-25-19-4-2-3-17(15-19)20(24)23-13-11-22(12-14-23)10-9-16-5-7-18(21)8-6-16;/h2-8,15H,9-14H2,1H3;1H
